US04695569
A mixture of 4.86 parts of 2-amino-N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]benzamide, 1.4 parts of formic acid and 45 parts of methylbenzene was stirred and refluxed overnight. The reaction mixture was evaporated and the residue was taken up in trichloromethane, water and ammonium hydroxide. The organic phase was separated, dried, filtered and evaporated. The residue was crystallized from acetonitrile, yielding 3.6 parts (73%) of 3-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-4(3H)-quinazolinone; mp. 190.6° C. (compound 137).

reactant | 2-amino-N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]benzamide | NC1=C(C(=O)NCCN2CCC(CC2)NC2=NC3=C(N2CC2=CC=C(C=C2)F)C=CC=C3)C=CC=C1 | C28H31FN6O
reactant | formic acid | C(=O)O | CH2O2
solvent | methylbenzene | CC1=CC=CC=C1 | C7H8
product | 3-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-4(3H)-quinazolinone | 73% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCN2C=NC1=CC=CC=C1C2=O | C29H29FN6O
